### ISSUE TITLE
Gallery integrity (CRITICAL): erdos-556 axioms are inconsistent — degenerate R_cycle_3 collapses to 1, deriving False

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#40895]
## Integrity Issue — CRITICAL (inconsistent axioms → `False` derivable)

**Proof**: erdos-556 (`proofs/Proofs/Erdos556Problem.lean`)
**Problem**: The Ramsey-number definition `R_cycle_3` is degenerate, so the axioms asserting its values are **false**, and the axiom set is **inconsistent** — a closed proof of `False` builds against the module.

## Root cause

`IsMonochromaticCycle` (lines 63–67) imposes **no injectivity / graph-embedding constraint** on `embedding : Fin n → Fin m`:

```lean
def IsMonochromaticCycle (coloring : EdgeColoring3 m) (c : Fin 3)
    (embedding : Fin n → Fin m) : Prop :=
  ∀ i : Fin n, coloring (embedding i, embedding ⟨(i.val + 1) % n, _⟩) = c
```

A **constant** embedding (everything ↦ vertex `0`) makes every checked edge `(0,0)`, so it is trivially monochromatic in color `coloring (0,0)`. Hence the Ramsey predicate holds for **every** `m ≥ 1`, and

```
R_cycle_3 n = Nat.find (…) = 1   for all n ≥ 1
```

(`m = 0` fails only because `Fin n → Fin 0` is empty for `n ≥ 1`).

## Evidence (verified by build against the real module)

The following compiles cleanly (Lean 4.31.0, Mathlib pinned rev):

```lean
import Proofs.Erdos556Problem
namespace Erdos556
open scoped Classical

theorem audit_R_collapses (n : ℕ) (hn : 0 < n) : R_cycle_3 n = 1 := by
  unfold R_cycle_3
  apply Nat.find_eq_iff _ |>.mpr
  refine ⟨?_, ?_⟩
  · intro coloring
    exact ⟨coloring (0, 0), fun _ => 0, fun _ => rfl⟩
  · intro m hm
    have hm0 : m = 0 := by omega
    subst hm0
    intro hp
    obtain ⟨c, emb, _⟩ := hp (fun _ => 0)
    exact (emb ⟨0, hn⟩).elim0

theorem audit_inconsistent : False := by
  obtain ⟨N, hN⟩ := kss_2005_lower_odd
  set n := 2 * (N + 3) + 1 with hn_def
  have hn_odd : Odd n := ⟨N + 3, by omega⟩
  have hlo : R_cycle_3 n ≥ 4 * n - 3 := hN n (by omega) hn_odd
  have hcol : R_cycle_3 n = 1 := audit_R_collapses n (by omega)
  omega
end Erdos556
```

`#print axioms Erdos556.audit_inconsistent` →
`[propext, Classical.choice, Erdos556.kss_2005_lower_odd, Quot.sound]`

i.e. **no `sorry`** — the file's own axiom `kss_2005_lower_odd` alone (with standard logical axioms) proves `False`.

## Which axioms are unsound

Relative to the concrete `R_cycle_3` (which is provably `= 1`):
- `kss_2005_lower_odd` (`R ≥ 4n-3` for large odd `n`) — **FALSE** (1 ≱ 4n-3).
- `benevides_skokan_2009` (`R = 2n` for large even `n`) — **FALSE** (1 ≠ 2n).
- `kss_2005_upper_odd`, `bondy_erdos_conjecture` (`R ≤ 4n-3`) — technically true but vacuous (1 ≤ 4n-3).

Because `False` is derivable, `erdos_556` / `erdos_556_summary` are vacuously "provable" from an inconsistent axiom base — the formalization establishes nothing.

## Recommended fix

The definitions, not the meta, are wrong. Options:
1. **Constrain the embedding** so `IsMonochromaticCycle` requires a genuine injective cycle-preserving map into `K_m` (i.e. `embedding` injective and consecutive images distinct/adjacent), so `R_cycle_3` recovers the true Ramsey number. Then the KSS / Benevides–Skokan axioms become sound.
2. If a full redefinition is out of scope, **remove the concrete `R_cycle_3` definition** and axiomatize an *opaque* `R_cycle_3 : ℕ → ℕ` (no `Nat.find` body). An opaque symbol cannot be shown `= 1`, so the value axioms stop being contradictory.

Meta counts themselves are accurate (4 axioms, 3 theorems, 4 defs, 0 sorries, badge `axiom`, status `axiomatized`) — the defect is soundness of the axioms against the definition, not the tallies.

---
Discovered during gallery integrity audit (reserve/re-audit pass).
